US08242280B2
To the crude 2-hydroxy-2-{3-[3-(2-methoxy-phenyl)-1-(2-trimethylsilanylethoxymethyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-phenyl}-N,N-dimethyl-acetamide obtained in last step was added trifluoroacetic acid (2 mL) and the resulting mixture was sonicated until the residue was completely dissolved. The trifluoroacetic acid was evaporated and the residue treated with ethylene diamine (0.2 mL). The resulting mixture was purified via mass-triggered reverse-phase HPLC to yield 2-hydroxy-2-{3-[3-(2-methoxy-phenyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-phenyl}-N,N-dimethyl-acetamide as a white solid (25 mg, 33% over two steps). MS: m/z 403 (M+H+). 1H NMR (500 MHz, DMSO-d6) δ 2.89 (d, 6H), 3.87 (s, 3H), 5.48 (d, 1H), 5.57 (d, 1H), 7.10 (t, 1H), 7.24 (d, 1H), 7.38 (d, 1H), 7.47 (dt, 1H), 7.48 (t, 1H), 7.67 (dd, 1H), 7.70 (d, 1H), 7.75 (s, 1H), 8.32 (d, 1H), 8.84 (d, 1H), 13.84 (s, 1H).

reactant | 2-hydroxy-2-{3-[3-(2-methoxy-phenyl)-1-(2-trimethylsilanylethoxymethyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-phenyl}-N,N-dimethyl-acetamide | OC(C(=O)N(C)C)C1=CC(=CC=C1)C=1C=C2C(=NC1)N(N=C2C2=C(C=CC=C2)OC)COCC[Si](C)(C)C | C29H36N4O4Si
reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 2-hydroxy-2-{3-[3-(2-methoxy-phenyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-phenyl}-N,N-dimethyl-acetamide | OC(C(=O)N(C)C)C1=CC(=CC=C1)C=1C=C2C(=NC1)NN=C2C2=C(C=CC=C2)OC | C23H22N4O3
